US07420083B2
To a solution of 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-hydroxy-benzoic acid methyl ester (10.10 g, 2.70 mmol) and 1,3-dibromopropane (2.18 g, 10.8 mmol) in acetone (75 mL) was added potassium carbonate (1.87 g, 13.5 mmol). The reaction mixture was heated to reflux for 3 hours and allowed to cool back down to room temperature. The mixture was partitioned between ethyl acetate and brine, and the layers were separated. The aqueous layer was extracted with one additional portion of ethyl acetate. The organics were combined, washed with one portion of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude oil was purified by flash chromatography through silica gel using ethyl acetate/hexanes (0/100 gradient to 8/92) to give 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-(3-bromo-propoxy)-benzoic acid methyl ester (1.11 g, 78%) as a white powder. 1H NMR (400 MHz, CDCl3); δ 12.58 (s, 1H), 8.53 (d, 1H), 8.51 (s, 2H), 8.08 (s, 1H), 8.04 (d, 1H), 6.70 (dd, 1H), 4.24 (t, 2H), 3.96 (s, 3H), 3.62 (t, 2H), 2.37 (m, 2H).

reactant | 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-hydroxy-benzoic acid methyl ester | 2.70 mmol, 10.10 g | COC(C1=C(C=C(C=C1)O)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C17H11F6NO4
reactant | 1,3-dibromopropane | 10.8 mmol, 2.18 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 13.5 mmol, 1.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-(3-bromo-propoxy)-benzoic acid methyl ester | 1.11 g, 78% | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C20H16BrF6NO4
